US05053514
A suspension (50 ml) of 6-(3-methylamino-2-hydroxypropoxy)carbostyril (3.0 g), sodium iodide (11.8 g), triethylamine (2.2 ml) and 2-(4-fluorophenylsulfinyl)ethyl bromide (3.9 g) in dimethylformamide is heated with stirring at 80°-90° C. for 5 hours. After concentration under reduced pressure, the resulting residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol: ammonium hydroxide=200:10:1-150:10:1) and recrystallized from dichloromethane-diethylether to give 6-[3-{N-[2-(4-fluorophenylsulfinyl)ethyl] -N-methylamino}-2-hydroxypropoxy]carbostyril (0.7 g), as white powder, m.p. 126°-129° C.

reactant | 6-(3-methylamino-2-hydroxypropoxy)carbostyril | 50 ml, 3.0 g | CNCC(COC=1C=C2C=CC(NC2=CC1)=O)O | C13H16N2O3
reactant | sodium iodide | 11.8 g | [I-].[Na+]
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-fluorophenylsulfinyl)ethyl bromide | 3.9 g | FC1=CC=C(C=C1)S(=O)CCBr | C8H8BrFOS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[3-{N-[2-(4-fluorophenylsulfinyl)ethyl] -N-methylamino}-2-hydroxypropoxy]carbostyril | 0.7 g | FC1=CC=C(C=C1)S(=O)CCN(C)CC(COC=1C=C2C=CC(NC2=CC1)=O)O | C21H23FN2O4S
